data/oMe_Silver.jsonl
{"reaction_id": "NG-006_1-C(C)(C)C","name": "Alkyne zipper reaction","level": "easy","reactants_smiles": ["C(C)(C)CC#CCC"],"products_smiles": ["C(C)(C)CCCCC#C"],"conditions": "KH, 3-Aminopropylamine","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC#C[CH-]C","rationale": "KH deprotonates the acidic propargylic position due to the high acidity of sp-hybridized C–H bonds, generating a resonance-stabilized acetylide anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC=C=CC","rationale": "The acetylide anion abstracts a proton from an adjacent carbon, forming an allene intermediate via base-promoted rearrangement favored by strong basic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CCC#CC","rationale": "Deprotonation at the terminal position of the allene occurs because the adjacent cumulated double bonds increase acidity through inductive and hyperconjugative effects."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CCC=C=C","rationale": "Proton transfer regenerates an allene isomer, allowing migration of the triple bond toward the terminal position through reversible tautomerization."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CCCC#[C-]","rationale": "Deprotonation at the propargylic position of the shifted alkyne is favored due to sp-hybridization, enabling final migration toward the thermodynamically stable terminal alkyne."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CCCCC#C","rationale": "Protonation of the acetylide anion yields the terminal alkyne, favored by lower internal strain and greater stability under basic conditions."}],"description": "Strong base KH deprotonates terminal and internal positions sequentially, enabling reversible allene–alkyne tautomerizations. Under these conditions, the thermodynamically favored terminal alkyne is formed via the 'zipper' shift, driven by conjugation and stability of the final C≡C at the chain end."}
{"reaction_id": "NR-314_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C(F)(F)F_4-CC","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(C(F)(F)F)(CC)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C(F)(F)F)(CC)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O[Os](=O)(=O)OC1(C(F)(F)F)(CC)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(O)(C(F)(F)F)(CC)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
